US06166015
Synthesis of N-[1-(3,4-dichlorobenzyl)pyrrolidin-3-(RS)-ylmethyl]-2-[5-(4-methoxyphenyl)pyrimidin-2-yloxy]acetamide
A stock solution containing N-(pyrrolidin-3-(RS)-ylmethyl)-2-(5-(4-methoxyphenyl)pyrimidin-2-yloxy)acetamide (0.44 mmol) in dichloroethane (10 mL) was added to a solution of 3,4-dichlorobenzaldehyde (85 mg, 0.48 mmol, 1.1 equiv.) and diisopropylethylamine (0.35 mL, 2.0 mmol, 4.5 equiv.) in dichloroethane (5 mL). Excess Na(OAc)3BH (140 mg, 0.66 mmol, 1.5 equiv.) was added and the reaction mixture was stirred rapidly at room temperature overnight. The reaction mixture was quenched with methanol, concentrated and diluted with 1:1 methanol/dimethyl sulfoxide. The solution was then purified directly using preparative reverse phase chromatography to give, after treatment with 4 M hydrochloric acid in dioxane (1 mL) and concentration, N-[1-(3,4-dichlorobenzyl)pyrrolidin-3-(RS)-ylmethyl]-2-[5-(4-methoxyphenyl)pyrimidin-2-yloxy]-acetamide HCl salt (96 mg).

reactant | N-(pyrrolidin-3-(RS)-ylmethyl)-2-(5-(4-methoxyphenyl)pyrimidin-2-yloxy)acetamide | 0.44 mmol | N1CC(CC1)CNC(COC1=NC=C(C=N1)C1=CC=C(C=C1)OC)=O | C18H22N4O3
reactant | 3,4-dichlorobenzaldehyde | 0.48 mmol, 85 mg, 1.1 equiv. | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | diisopropylethylamine | 2.0 mmol, 0.35 mL, 4.5 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Na(OAc)3BH | 0.66 mmol, 140 mg, 1.5 equiv. | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
product | N-[1-(3,4-dichlorobenzyl)pyrrolidin-3-(RS)-ylmethyl]-2-[5-(4-methoxyphenyl)pyrimidin-2-yloxy]acetamide | ClC=1C=C(CN2CC(CC2)CNC(COC2=NC=C(C=N2)C2=CC=C(C=C2)OC)=O)C=CC1Cl | C25H26Cl2N4O3
